US04341775
7-[2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.5 g.), conc. hydrochloric acid (1.9 g.) and methanol (40 ml.) were treated in a similar manner to that of Example 6-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.4 g.).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 2.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCO)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C24H30N10O9S3
reactant | hydrochloric acid | 1.9 g | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 1.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCO)C(=O)O)C1=O)=NOCCN | C18H22N10O6S3
